US06177579B1
13-cis-Retinoic acid
43 g of the mixture of retinoic acids from the condensation of hydroxy butenolide, vinyl beta-ionol and triphenylphosphine hydrochloride in 10 ml of ethanol are treated with 15 g of a 50% potassium hydroxide aqueous solution, subsequently diluted to 200 mL with water, added with 30 mg of Bengal rose, then irradiated with a 18 Watt lamp for 12 hours.

reactant | hydroxy butenolide | C[C@@H]1CC=CC(=C)[C@]1(C)CCC2=CC(OC2=O)O | C15H20O3
reactant | vinyl beta-ionol | CC1=C(C(CCC1)(C)C)/C=C/C(C)(C=C)O | C15H24O
reactant | triphenylphosphine hydrochloride | Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 13-cis-Retinoic acid | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C\C(=O)O)/C)/C | C20H28O2
